US08008321B2
N-[3-(3-Methoxy-4-nitrobenzoyl)imidazo[1,5-a]pyridin-6-yl]acetamide
1.29 ml (9.29 mmol) of triethylamine and then 0.51 ml (7.15 mmol) of acetyl chloride are added to 0.50 g (1.43 mmol) of (6-aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone hydrochloride in 25 ml of 1,2-dichloroethane cooled to 5° C. and then the mixture is allowed to return to ambient temperature and is stirred for 18 hours. The medium is taken up in water, basified with a sodium bicarbonate solution and extracted with dichloromethane. The organic phase is washed with a saturated aqueous sodium chloride solution, then dried over sodium sulfate and concentrated under reduced pressure. The product is purified by column chromatography on silica gel, elution being carried out with a mixture of dichloromethane and acetone (90/10). 316 mg of a yellow solid are obtained. Melting point: 257° C.; 1H NMR (d6-DMSO): 2.15 (3H, s), 4.01 (3H, s), 7.45 (1H, d), 7.92 (1H, s), 8.00-8.06 (3H, m), 8.13 (1H, s), 10.62 (1H, s)

reactant | triethylamine | 9.29 mmol, 1.29 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 7.15 mmol, 0.51 ml | C(C)(=O)Cl | C2H3ClO
reactant | (6-aminoimidazo[1,5-a]pyridin-3-yl)(3-methoxy-4-nitrophenyl)methanone hydrochloride | 1.43 mmol, 0.50 g | Cl.NC=1C=CC=2N(C1)C(=NC2)C(=O)C2=CC(=C(C=C2)[N+](=O)[O-])OC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | N-[3-(3-Methoxy-4-nitrobenzoyl)imidazo[1,5-a]pyridin-6-yl]acetamide | 316 mg | COC=1C=C(C(=O)C2=NC=C3N2C=C(C=C3)NC(C)=O)C=CC1[N+](=O)[O-] | C17H14N4O5
